US04228170
A mixture containing (100 g., 0.425 m.) 7,8-dichlorotetrahydroisoquinoline hydrochloride and (41 g., 0.5 m.) sodium acetate in 760 ml. of acetic acid and 430 ml. of acetic anhydride was heated at 100° C. with stirring for four hours. The cooled reaction mixture was diluted with 800 ml. of water and brought to pH 8 by addition of 5% aqueous sodium carbonate (1400 ml.). The tan precipitate was collected by filtration, dried and recrystallized from isopropanol to give N-acetyl-7,8-dichloro-1,2,3,4-tetrahydroisoquinoline having a melting point of 98°-100° C.

reactant | 7,8-dichlorotetrahydroisoquinoline hydrochloride | 100 g | Cl.ClC1=CC=C2CCNCC2=C1Cl
reactant | sodium acetate | 41 g | C(C)(=O)[O-].[Na+]
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium carbonate | 1400 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N-acetyl-7,8-dichloro-1,2,3,4-tetrahydroisoquinoline | C(C)(=O)N1CC2=C(C(=CC=C2CC1)Cl)Cl | C11H11Cl2NO
